US06306860B1
Step (2): Preparation of 2-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]-5-[N-(2-methylpropyl)carbamoyl]pyridine
By the same procedure as described in the step (2) of example 27, the synthesis was carried out starting with 5-[N-(2-methylpropyl)carbamoyl]-2-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]pyridine, so prepared by Step (1) and using isobutylamine. And then, the product was recrystallized with ethanol and ether to give a desired compound.

reactant | 5-[N-(2-methylpropyl)carbamoyl]-2-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]pyridine | CC(CNC(=O)C=1C=CC(=NC1)C(=O)N1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-])C | C20H24N6O4
reactant | isobutylamine | C(C(C)C)N | C4H11N
product | 2-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]-5-[N-(2-methylpropyl)carbamoyl]pyridine | Yield: 72% | NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NCC(C)C)=O | C20H26N6O2
